US05599984
3,3'-(ethylenedioxy)dibenzaldehyde (1.08 g), aminoguanidine hydrochloride (1.105 g), and aminoguanidine dihydrochloride (0.005 g) were heated in 96% ethanol (6.25 mL) for 18 hr under nitrogen. Cooling and filtration gave 1.428 g of 3,3'-(ethylenedioxy)dibenzaldehyde bis(amidinohydrazone) dihydrochloride, mp 264°-6° C.

reactant | 3,3'-(ethylenedioxy)dibenzaldehyde | 1.08 g | C(OC=1C=C(C=O)C=CC1)COC=1C=C(C=O)C=CC1 | C16H14O4
reactant | aminoguanidine hydrochloride | 1.105 g | C(=N)(N)NN.Cl
solvent | ethanol | 6.25 mL | C(C)O | C2H6O
catalyst | aminoguanidine dihydrochloride | 0.005 g | Cl.Cl.NNC(=N)N
product | 3,3'-(ethylenedioxy)dibenzaldehyde bis(amidinohydrazone) dihydrochloride | 1.428 g | Cl.Cl.C(N)(=N)NN=CC1=CC(=CC=C1)OCCOC=1C=C(C=NNC(N)=N)C=CC1 | InChI=1S/C18H22N8O2.2ClH/c19-17(20)25-23-11-13-3-1-5-15(9-13)27-7-8-28-16-6-2-4-14(10-16)12-24-26-18(21)22;;/h1-6,9-12H,7-8H2,(H4,19,20,25)(H4,21,22,26);2*1H
